US08541407B2
To a solution of 4-(2-((tert-butoxycarbonyl)amino)ethyl)benzoic acid (3.364 g, 12.7 mmol) in anhydrous dichloromethane (60 mL) was added carbonyldiimidazole (2.264 g, 13.97 mmol). The reaction mixture was stirred at room temperature for 45 minutes before anhydrous hydrazine (1 ml) was added and the mixture stirred at room temperature for another 16 hours. Evaporation to dryness gave a white solid that was stirred in 1.5N sodium hydroxide (200 mL) for 30 minutes before being filtered off and washed with water (2×100 mL). Drying under vacuum gave tert-butyl 4-(hydrazinecarbonyl)phenethylcarbamate as a white powder (2.847 g). 400 MHz 1H NMR (DMSO-d6) δ: 9.69 (s, 1H), 7.74 (d, J=8 Hz, 2H), 7.25 (d, J=8 Hz, 2H), 6.9 (t, J=5.2 Hz, 1H), 4.45 (s, 2H), 3.15 (m, 2H), 2.72 (t, J=7.6 Hz, 2H), 1.36 (s, 9H). LCMS [M+]: 279.

reactant | 4-(2-((tert-butoxycarbonyl)amino)ethyl)benzoic acid | 12.7 mmol, 3.364 g | C(C)(C)(C)OC(=O)NCCC1=CC=C(C(=O)O)C=C1 | C14H19NO4
reactant | carbonyldiimidazole | 13.97 mmol, 2.264 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrazine | 1 ml | NN | H4N2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1.5N, 200 mL | [OH-].[Na+]
product | tert-butyl 4-(hydrazinecarbonyl)phenethylcarbamate | 2.847 g | N(N)C(=O)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C14H21N3O3
